US05047163
N-(4-Carboxybenzylidene)-4-chlorobenzenesulfonamide (SULF-1)
A well-stirred slurry consisting of 4.64g (31 mmol) of 4-carboxybenzaldehyde and 5.92 g (31 mmol) of 4-chlorobenzenesulfonamide and 20 mg of p-toluenesulfonic acid (TsOH) in 130 mL of toluene was heated to reflux for a total of 5 hours. The water formed from the reaction was removed by a Soxhlet extractor packed with 3A molecular sieves as described above. The mixture was allowed to cool to room temperature and was filtered to provide 9.76 g (98%) of SULF-1 as a white powder: mp >245° C.; IR (Nujol) 3300-2300 (br), 3090, 1689, 1616, 1168, 1013 cm-1 ; 1H NMR (DSMO-d6, TMS ext standard, 60 MHz) δ9.15 (s, 1), 8.01 (s, 4), 7.79 (AB, 4, JAB =11, Δν=16).

reactant | 4-carboxybenzaldehyde | 31 mmol, 4.64g | C(=O)(O)C1=CC=C(C=O)C=C1 | C8H6O3
reactant | 4-chlorobenzenesulfonamide | 31 mmol, 5.92 g | ClC1=CC=C(C=C1)S(=O)(=O)N | C6H6ClNO2S
reactant | p-toluenesulfonic acid | 20 mg | C1(=CC=C(C=C1)S(=O)(=O)O)C | C7H8O3S
reactant | water | O | H2O
solvent | toluene | 130 mL | C1(=CC=CC=C1)C | C7H8
product | N-(4-Carboxybenzylidene)-4-chlorobenzenesulfonamide | C(=O)(O)C1=CC=C(C=NS(=O)(=O)C2=CC=C(C=C2)Cl)C=C1 | C14H10ClNO4S
